US09085581B2
To a solution of 4-amino-3-methylphenol (75.0 g, 609 mmol) in THF (1.5 L) was added imidazole (83 g, 1.22 mol). The reaction was cooled to 0° C. and triisopropylsilyl chloride (123 mL, 579 mmol) was added. The reaction mixture was allowed to warm to room temperature, stirred for 3 h, diluted with MTBE (1.5 L) and filtered. The filtrate was washed with water (1.0 L). The aqueous phase was back-extracted with MTBE (500 mL). The organics were combined, washed with 0.5 N NaOH (2×500 mL), brine (500 mL), and dried over MgSO4. The organics were filtered and concentrated to give 2-methyl-4-(triisopropylsilyloxy)aniline (135 g, 482 mmol, 83% yield) as a red oil. Exact mass calculated for C16H29NOSi: 279.2, found: LCMS m/z=280.5, [M+H+]; 1H NMR (400 MHz, CDCl3) δ ppm 1.09 (d, J=7.0 Hz, 18 H), 1.21 (m, 3 H), 2.12 (s, 3 H), 3.31 (bs, 2 H), 6.53 (d, J=8.4 Hz, 1 H), 6.57 (dd, J1=8.4, J2=2.7 Hz, 1 H), 6.62 (d, J=2.7 Hz, 1 H).

reactant | 4-amino-3-methylphenol | 609 mmol, 75.0 g | NC1=C(C=C(C=C1)O)C | C7H9NO
reactant | imidazole | 1.22 mol, 83 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 579 mmol, 123 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
solvent | MTBE | 1.5 L | CC(C)(C)OC | C5H12O
product | 2-methyl-4-(triisopropylsilyloxy)aniline | 482 mmol, 135 g, 83% yield | CC1=C(N)C=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C | C16H29NOSi
